US04175137
A mixture of 18.6 g of 4-phenoxyphenol, 12.8 g of 1,2-carbonyldioxycyclopentane and 4.6 g of triethylammonium iodide is stirred for 7 hours at 150° C. After cooling, the reaction mixture is taken up in chloroform. The solution is washed with water and once with saturated sodium chloride solution, dried over sodium sulphate and concentrated by rotary evaporation. Fractional distillation of the residue yields (2-(4-phenoxyphenoxy)-cyclopentan-1-ol as a colourless oil with a melting point of 181°-185° C./0.001 torr.

reactant | 4-phenoxyphenol | 18.6 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | triethylammonium iodide | 4.6 g | [I-].C(C)[NH+](CC)CC
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-phenoxyphenoxy)-cyclopentan-1-ol | O(C1=CC=CC=C1)C1=CC=C(OC2C(CCC2)O)C=C1 | C17H18O3
